US04826975
cis-2-[4-(2-Methyl-1-benzimidazolinyl)-piperidinyl]-5,6-dimethoxy-1-indanol (MG 38125).
Prepared from 4-(2-methyl-1-benzimidazolinyl)-piperidine hydrochloride hydrobromide and 2-bromo-5,6-dimethoxy-1-indanone without isolation of the intermediate ketone and using NaBH4 as the hydrogenating agent. Yield 54.7%; m.p. 255°-256° C. (chloroform/diethyl ether).

reactant | 4-(2-methyl-1-benzimidazolinyl)-piperidine hydrochloride hydrobromide | Br.Cl.CC1NC2=C(N1C1CCNCC1)C=CC=C2
reactant | 2-bromo-5,6-dimethoxy-1-indanone | BrC1C(C2=CC(=C(C=C2C1)OC)OC)=O | C11H11BrO3
reactant | NaBH4 | [BH4-].[Na+]
solvent | chloroform diethyl ether | C(Cl)(Cl)Cl.C(C)OCC
product | cis-2-[4-(2-Methyl-1-benzimidazolinyl)-piperidinyl]-5,6-dimethoxy-1-indanol | Yield 54.7% | CC1NC2=C(N1C1CCN(CC1)[C@@H]1[C@@H](C3=CC(=C(C=C3C1)OC)OC)O)C=CC=C2 | C24H31N3O3
